US07737166B2
Ethyl (1R*,2R*)-2-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}cyclopropanecarboxylate (#112)
Ethyl (1R*,2R*)-2-[4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-yl]cyclopropanecarboxylate (I-216) (200 mg, 0.55 mmol) was dissolved in dimethyl sulfoxide (5 ml), then triethylamine (146 μl, 1.10 mmol) and (3S)-3-(dimethylamino)pyrrolidine (146 μl, 1.15 mmol) were added, followed by stirring at 95° C. for 4 hours. After cooled, this was concentrated under reduced pressure, diluted with chloroform, and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was subjected to preparative TLC. The eluate with chloroform/methanol (5:1, v/v) gave the entitled compound (105 mg, 42%) as a red brown solid.

reactant | Ethyl (1R*,2R*)-2-[4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-yl]cyclopropanecarboxylate | 0.55 mmol, 200 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)[C@H]2[C@@H](C2)C(=O)OCC)F)C2=CC=CC=C2)C | C21H17FN2O3
reactant | triethylamine | 1.10 mmol, 146 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 1.15 mmol, 146 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | Ethyl (1R*,2R*)-2-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}cyclopropanecarboxylate | 105 mg, 42% | C(#N)C1=C(C(=C(C2=C1N=C(O2)[C@H]2[C@@H](C2)C(=O)OCC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C27H30N4O3
